US09353107B2
Step-ii: N-(3-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methane sulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(3-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide (300 mg, 0.473 mmol) was hydrolyzed with lithium hydroxide (40 mg, 0.946 mmol) in THF/water/methanol (15/10/5 ml) mixture to afford 20 mg (8.8% yield) of the desired compound. 1H NMR (DMSO-d6, 400 MHz): δ 11.82 (s, 1H), 9.82 (s, 1H), 8.48-8.47 (d, 1H), 8.43 (s, 1H), 8.355-8.350 (d, 1H), 8.00 (s, 1H), 7.71-7.80 (d, 1H), 7.53-7.46 (m, 3H), 7.25-7.23 (m, 2H), 6.98-6.97 (d, 2H), 5.42 (s, 2H), 3.05 (s, 3H). MS: m/z=479.8 (M+1), HPLC: 94.78% (Method-B).

reactant | N-(3-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide | 0.473 mmol, 300 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C31H25F2N5O4S2
reactant | lithium hydroxide | 0.946 mmol, 40 mg | [OH-].[Li+]
solvent | THF water methanol | 5 ml | C1CCOC1.O.CO
product | N-(3-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methane sulfonamide | 20 mg, 8.8% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)C=C(C1)F | C24H19F2N5O2S
